US06911468B2
(9) Ethyl (2R)-2-{4-[5-methyl-1-(4-pentylphenylpropyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoate
A solution of 4-[5-methyl-1-(4-pentylphenylpropyl)-1H-pyrrol-2-yl]phenol (1.3 g, 3.6 mmol), ethyl (S)-2-hydroxy-3-phenylpropanoate (1.05 g, 5.4 mmol), 1,1′-(azodicarbonyl)dipiperidine (1.36 g, 5.4 mmol) and triphenylphosphine (1.42 g, 5.4 mmol) in toluene (40 ml) was stirred at 80° C. for 12 hours. The reaction solution was poured into water and extracted with ethyl acetate, and the extract was washed with saturated brine and dried over magnesium sulfate anhydride. The solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=15:1) to give the object compound as an oily substance. 250 mg, (yield 13%)

reactant | 4-[5-methyl-1-(4-pentylphenylpropyl)-1H-pyrrol-2-yl]phenol | 3.6 mmol, 1.3 g | CC1=CC=C(N1CCCC1=CC=C(C=C1)CCCCC)C1=CC=C(C=C1)O | C25H31NO
reactant | ethyl (S)-2-hydroxy-3-phenylpropanoate | 5.4 mmol, 1.05 g | O[C@H](C(=O)OCC)CC1=CC=CC=C1 | C11H14O3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 5.4 mmol, 1.36 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | triphenylphosphine | 5.4 mmol, 1.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | Ethyl (2R)-2-{4-[5-methyl-1-(4-pentylphenylpropyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoate | yield 13% | CC1=CC=C(N1CCCC1=CC=C(C=C1)CCCCC)C1=CC=C(O[C@@H](C(=O)OCC)CC2=CC=CC=C2)C=C1 | C36H43NO3
